US06916819B2
Concentrated HCl (10 ml) is added to a solution of 2-(1-ethoxymethyl-1H-imidazol-2-yl)-thiazole (940 mg, 4.49 mmol) in 24 mL of 1:1 EtOH—H2O at room temperature. The solution is stirred at reflux for 3 h. The reaction mixture is then cooled to 0° C. and made basic by the addition of about 12 mL of 10 N aqueous NaOH. The mixture is back titrated to approximately pH 4 using concentrated HCl. Solid NaHCO3 is added to the point of saturation and approximately pH 8. The mixture is then extracted twice using a mixture of THF and EtOAc. The combined extracts are dried over Na2SO4 and concentrated to an oily solid, which is triturated with a small amount of CH2Cl2. The solid is collected by filtration. The filtrate is concentrated, and the oily solid triturated once more with CH2Cl2. The second resultant solid is collected by filtration and combined with the solid first obtained. The product, 2-(1H-imidazol-2-yl)-thiazole, is obtained as a slightly off-white solid. 1H NMR (400 MHz, DMSO-d6) δ 13.04 (br, 1H), 7.87 (d, J=3.2 Hz, 1H), 7.70 (d, J=3.2 Hz, 1H), 7.14 (br, 2H) ppm.

reactant | HCl | 10 ml | Cl | ClH
reactant | 2-(1-ethoxymethyl-1H-imidazol-2-yl)-thiazole | 4.49 mmol, 940 mg | C(C)OCN1C(=NC=C1)C=1SC=CN1 | C9H11N3OS
reactant | NaOH | 10 N, about 12 mL | [OH-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOH—H2O | 24 mL | C(C)O.O
product | 2-(1H-imidazol-2-yl)-thiazole | N1C(=NC=C1)C=1SC=CN1 | C6H5N3S
